* ============================================================================
*  CAN FD bus simulation -- robotic arm routing replica (real transceiver model)
*  3 nodes: board + motor1(stub) + motor2(end)   dual-wire differential bus
* ============================================================================
*  Transceiver model: TI TCAN1042-Q1 transient SPICE model
*    (downloaded: models/TCAN1042-Q1.TSM)
*    - TSM is a TINA-TI macro format; ported to PSpice, pin order is:
*      .SUBCKT TCAN1042 TXD STB RXD CANH CANL VCC GND
*    - Model params: RX threshold 0.9V diff, driver RON~36R / open 25k,
*      TXD hysteresis 0.8/2.0V, input 54k//12pF
*    - TXD polarity: verified TXD LOW(0V)=dominant, HIGH=recessive
*      (same as real CAN transceivers; RXD low=dominant). Stimulus below uses
*      TXD low for dominant bits. Verify during run: RXD should echo TXD level.
*    - No recessive bias: when not driving, bus is pulled to ~0V by the
*      60R terminators (diff ~0), common mode ~0V not 2.5V. Differential
*      observation is unaffected, but do not read CANH/CANL single-ended
*      voltages as absolute levels.
*  Bus: twisted pair, single-line odd-mode impedance 60 ohm => diff 120 ohm,
*  vf~0.78
*  Topology (daisy chain + motor1 stub):
*
*      [BOARD]  X1
*        | D_TXD1 driven with CAN FD frame
*      CANH_B/CANL_B --trunk(1.0m)--> HUB/HUBL --seg2(1.5m)--> X3 [MOTOR2] far end
*                                              |                     +2x60R term
*                                           stub(0.3m)
*                                              |
*                                        X2 [MOTOR1] stub end, no term (reflector)
*
*  Watch: differential V(CANH)-V(CANL) at each node + RXD of each transceiver
*
*  NOTE on node naming: PSpice 17.4 rejects output-variable references like
*  V(name) when the node name starts with A B J K M N P Q T U X Z or "_".
*  All bus/signal nodes here deliberately start with C/D/H/R/S/V to stay safe.
* ============================================================================

* ---- vendor model ----------------------------------------------------------
*  PSpice plaintext: models/TCAN1042_q1_pspice.lib (converted from TSM,
*  VALUE = {} -> VALUE {}). Path is relative to this .cir's directory.
*  TINA-TI original: models/TCAN1042-Q1.TSM (TINA: Insert->Macro)
*  T elements are PSpice syntax; for TINA replace or drop the T_* lines.
.lib "models/TCAN1042_q1_pspice.lib"
* absolute fallback if not found:
* .lib "E:\workspace2608\03\Ragtime_Firmwares\si_models\models\TCAN1042_q1_pspice.lib"

* ---- PSpice-port fixes for the TI TINA model ---------------------------------
*  The TSM->PSpice port of MUX2X1_0 / LOGIC_IO_0 (VSWITCH-based) misbehaves /
*  fails to converge in OrCAD PSpice 17.4 (they ARE pure digital stages).
*  Verified in isolation: driver chain (BUF_0/PREDRIVER_0/DRVRCAN_0/STBMODE_0)
*  and receivers (HSRCVR_0/LPRCVR_0/RECV) are correct as-is.
*  Replace with clean EVALUE equivalents (last definition wins over .lib).
*  STB=0 selects RXD1 (high-speed receiver), matches MUX2X1_0 truth table.
.SUBCKT MUX2X1_0  RXDINT1 RXDINT2 STB OUT VDD VSS
E_OUT OUT 0 VALUE {IF(V(STB)>(V(VDD)+V(VSS))*0.5, V(RXDINT2), V(RXDINT1))}
.ENDS MUX2X1_0
.SUBCKT LOGIC_IO_0  INP RXD VDD VSS
E_OUT RXD 0 VALUE {IF(V(INP)>(V(VDD)+V(VSS))*0.5, V(VDD), V(VSS))}
.ENDS LOGIC_IO_0
*  BUF_0 (TXD/STB hysteresis buffer): the TINA VSWITCH stage makes TXDint
*  drift up to VDD while TXD=0 in PSpice 17.4, falsely releasing the driver
*  ~110ns after a dominant edge that follows a long single-recessive bit.
*  Replace with a smooth tanh buffer (threshold=VCM, ~0.2V transition):
*  verified RXD fully decodes the 01010 worst-case sequence.
.SUBCKT BUF_0  TXD TXDINT STB STBINT VDD VSS
E_TXD TXDINT 0 VALUE {0.5*((V(VDD)+V(VSS))+(V(VDD)-V(VSS))*TANH(20*(V(TXD)-0.5*(V(VDD)+V(VSS)))))}
E_STB STBINT 0 VALUE {0.5*((V(VDD)+V(VSS))+(V(VDD)-V(VSS))*TANH(20*(V(STB)-0.5*(V(VDD)+V(VSS)))))}
.ENDS BUF_0

* ---- parameters ------------------------------------------------------------
.PARAM L_TRUNK=1.0     ; trunk board->junction [m] (NOTE: 1.0m in SPICE = 1 mm!)
.PARAM L_SEG2 =1.5     ; junction->motor2 [m]
.PARAM S_STUB =0.3     ; stub to motor1 [m], main sweep variable
.PARAM TDPM   =4.27n   ; per-meter delay 1/(0.78c)=4.27ns/m

* ---- power and mode pins ---------------------------------------------------
VCC  VCCP 0 5
VSTB1 STB1 0 0          ; STB=0 => Normal mode (X1 board)
VSTB2 STB2 0 0          ; X2 motor1
VSTB3 STB3 0 0          ; X3 motor2

* ---- terminators (both ends 60R: CANH->GND / CANL->GND, diff eq 120R) ------
RTH_A  CANH_B 0 60
RTL_A  CANL_B 0 60
RTH_M2 CANH_M2 0 60
RTL_M2 CANL_M2 0 60

* ---- probe resistors (1Meg, negligible load) --------------------------------
*  PSpice 17.4 bug: with lossless T elements present, .PRINT V(nodename)
*  fails ("PRINT device X is undefined") -- only DEVICE-based output refs work.
*  So each node of interest gets a resistor to ground; print V(Rxx) (=V(node)).
*  RPR_M1* : motor1 stub nodes (no termination there)
RPR_M1H CANH_M1 0 1Meg
RPR_M1L CANL_M1 0 1Meg
*  RPR_RXD*: transceiver RXD outputs (0V/5V digital), 1Meg load is negligible
RPR_RXD1 RXD1 0 1Meg
RPR_RXD2 RXD2 0 1Meg
RPR_RXD3 RXD3 0 1Meg

* ---- differential transmission lines (one per wire, Z0=60 single) ----------
*  trunk: board -> junction
T_TRK_H CANH_B 0 HUB 0 Z0=60 TD={L_TRUNK*TDPM}
T_TRK_L CANL_B 0 HUBL 0 Z0=60 TD={L_TRUNK*TDPM}
*  seg2:  junction -> M2
T_SG2_H HUB 0 CANH_M2 0 Z0=60 TD={L_SEG2*TDPM}
T_SG2_L HUBL 0 CANL_M2 0 Z0=60 TD={L_SEG2*TDPM}
*  stub:  junction -> M1
T_STB_H HUB 0 CANH_M1 0 Z0=60 TD={S_STUB*TDPM}
T_STB_L HUBL 0 CANL_M1 0 Z0=60 TD={S_STUB*TDPM}

* ---- transceiver instances -------------------------------------------------
*  pin order confirmed: .subckt TCAN1042 TXD STB RXD CANH CANL VCC GND
*  (TINA-TI: Insert->Macro load models/TCAN1042-Q1.TSM, wire by pin name)
* X1 = board: TXD sends the frame
X1 D_TXD1 STB1 RXD1 CANH_B CANL_B VCCP 0 TCAN1042
* X2 = motor1 (stub): idle, TXD low (recessive), receive only
X2 D_TXD2 STB2 RXD2 CANH_M1 CANL_M1 VCCP 0 TCAN1042
* X3 = motor2 (far end): idle, receive only
X3 D_TXD3 STB3 RXD3 CANH_M2 CANL_M2 VCCP 0 TCAN1042

* ---- stimulus: X1 sends CAN FD data phase, 10 bit seq 1101000110 -----------
*  Verified model polarity (single-transceiver test, PSpice 17.4):
*    TXD LOW(0V)  = DOMINANT  -> CANH driven, RXD low
*    TXD HIGH(5V) = RECESSIVE -> bus released, RXD high
*  This matches real CAN transceivers (active-low TXD). RXD echoes TXD level.
*  bit=200ns @5Mbps, edge 15ns; long dominant run then a single recessive is
*  the worst discharge/ringing case (dominant 815n..1400n, recessive 1415n..1800n).
VTX1 D_TXD1 0 PWL(
+ 0    5     ; idle/recessive (TXD high)
+ 400n 5
+ 415n 0     ; bit2=0 dominant
+ 600n 0
+ 615n 5     ; bit3=1 recessive
+ 800n 5
+ 815n 0     ; bit4=0 dominant
+ 1200n 0
+ 1400n 0
+ 1415n 5    ; bit7=1  <-- single recessive after long dominant, worst discharge
+ 1800n 5
+ 1815n 0    ; bit9=0 dominant
+ 2.2u 5)    ; back to recessive

* ---- idle stimuli ----------------------------------------------------------
VTX2 D_TXD2 0 5     ; motor1 idle: TXD high = recessive (not driving)
VTX3 D_TXD3 0 5     ; motor2 idle: TXD high = recessive (not driving)

* ---- simulation control ----------------------------------------------------
*  Single run (S_STUB=0.3m default). Full sweep results in README_can_si.md.
.TRAN 0.1n 2.5u
.PROBE

* ---- stub length sweep (enable for sweep; S_STUB=0 triggers ORPSIM-15138) ---
* .STEP PARAM S_STUB LIST 0.25 0.5 1.0 2.0 3.0
* .TRAN 0.1n 2.5u
* .PROBE

* ---- receive-side differential and RXD verification -------------------------
*  NOTE: PSpice has NO .MEAS/.MEASURE dot command (HSPICE/LTspice/ngspice
*  family only) -- any such line gives ORPSIM-16056. Measure interactively in
*  Probe instead, e.g. Trace>Evaluate Measurement: Max(V(CANH_B)-V(CANL_B)).
*  NOTE2: PSpice 17.4 .PRINT/.PLOT/.FOUR break for NODE refs when lossless T
*  elements exist. Device refs work: V(RTH_A)=V(CANH_B), V(RTL_A)=V(CANL_B),
*  V(RTH_M2)=V(CANH_M2), V(RTL_M2)=V(CANL_M2), V(RPR_M1H)=V(CANH_M1),
*  V(RPR_M1L)=V(CANL_M1), V(RPR_RXDx)=V(RXDx). Differential=CANH-CANL.
.PRINT TRAN V(RTH_A) V(RTL_A) V(RTH_M2) V(RTL_M2)
.PRINT TRAN V(RPR_M1H) V(RPR_M1L) V(RPR_RXD1) V(RPR_RXD2) V(RPR_RXD3)
*  RXD1/2/3 should reproduce the TXD bit sequence on the waveform

* ============================================================================
* Alt A: let motor1 send, board/motor2 receive => feed the frame into X2's TXD,
*   tie X1's TXD to 0 (recessive)
* Alt B: star double stub => split T_SG2_* into two stubs, motor2 terminated
* Alt C: 1Mbps arbitration phase => multiply all pulse times by 5
* ============================================================================
.END